US06103905
To a solution of quinoline-N-oxide (0.5 mmol) in 2 mL DCM at 0° C. in a 3 mL plastic tube fitted with a frit was added 58 uL of benzoyl chloride (0.5 mmol). The reaction mixture was stirred for 15 min at 0° C. and then indole (0.5 mmol) was added. The reaction was warmed to 20° C. and stirred for 4 h. The solid precipitate was filtered and washed with DCM (3×2 mL) to give solid 2-(3-indolyl)quinoline (6-100% yield).

reactant | quinoline-N-oxide | 0.5 mmol | [N+]1(=CC=CC2=CC=CC=C12)[O-] | C9H7NO
reactant | benzoyl chloride | 0.5 mmol, 58 uL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | indole | 0.5 mmol | N1C=CC2=CC=CC=C12 | C8H7N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-indolyl)quinoline | 6-100% yield | N1C=C(C2=CC=CC=C12)C1=NC2=CC=CC=C2C=C1 | C17H12N2
